US07205302B2
5-(benzyloxy)-2-(methoxycarbonyl)-1-tetralone
Under an argon atmosphere, 2.09 g of 60% sodium hydride was suspended in 30 ml of anhydrous dioxane and 11.51 g of dimethyl carbonate was added. While stirring with heating in an oil bath at 80 to 85° C., a solution of 6.58 g of 5-(benzyloxy)-1-tetralone in 15 ml of dioxane was added dropwise over about one hour. After stirring for one hour, the reaction solution was ice-cooled and 52 ml of an aqueous 1N acetic acid solution was added dropwise. The reaction solution was diluted with water, extracted with diethyl ether, washed with water and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 7.95 g of the desired compound as a pale yellow oily substance.

reactant | sodium hydride | 2.09 g | [H-].[Na+]
reactant | dimethyl carbonate | 11.51 g | C(OC)(OC)=O | C3H6O3
reactant | 5-(benzyloxy)-1-tetralone | 6.58 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)=O | C17H16O2
reactant | acetic acid | 1N | C(C)(=O)O | C2H4O2
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5-(benzyloxy)-2-(methoxycarbonyl)-1-tetralone | 7.95 g | C(C1=CC=CC=C1)OC1=C2CCC(C(C2=CC=C1)=O)C(=O)OC | C19H18O4
